* Qucs 1.1.0 C:/Projects/rlc2ss/qucs/diode_bridge_3l.sch
.INCLUDE "C:/Programs/qucs_s_win64/share/qucs-s/xspice_cmlib/include/ngspice_mathfunc.inc"
* Qucs 1.1.0  C:/Projects/rlc2ss/qucs/diode_bridge_3l.sch
V_src_a _net0 0 DC 1
V_src_b _net1 0 DC 1
V_src_c _net2 0 DC 1
R_conv_a N_conv_a V2_a  1E-3
R_conv_b N_conv_b V2_b  1E-3
R_conv_c N_conv_c V2_c  1E-3
R_grid_a N_cap_a _net3  1E-3
R_grid_b N_cap_b _net4  1E-3
R_grid_c N_cap_c _net5  1E-3
R_src_a _net6 _net7  1E-3
R_src_b _net8 _net9  1E-3
R_src_c _net10 _net11  1E-3
L_conv_a V2_a N_cap_a  1E-6 
L_conv_b V2_b N_cap_b  1E-6 
L_conv_c V2_c N_cap_c  1E-6 
L_grid_a _net3 _net6  1E-6 
L_grid_b _net4 _net8  1E-6 
L_grid_c _net5 _net10  1E-6 
L_src_a _net7 _net0  1E-6 
L_src_b _net9 _net1  1E-6 
L_src_c _net11 _net2  1E-6 
R_f_a _net12 N_cap_0  1E-3
R_f_b _net13 N_cap_0  1E-3
R_f_c _net14 N_cap_0  1E-3
C_f_a N_cap_a _net12  1E-3 
C_f_b N_cap_b _net13  1E-3 
C_f_c N_cap_c _net14  1E-3 
D_p_c N_conv_c  N_dc_p 
D_n_c N_dc_n  N_conv_c 
V_dc_src _net15 _net16 DC 1
R_dc_src_p _net17 _net18  1E3
L_dc_src _net15 _net18  10E-6 
R_dc_pp2 _net17 _net19  1E3
R_dc_pn2 _net19 _net16  1E3
R_dc_sp2 _net17 _net20  1E-3
R_dc_sn2 _net19 _net21  1E-3
R_dc_pp1 N_dc_p N_dc_0  1E3
R_dc_pn1 N_dc_0 N_dc_n  1E3
R_dc_sp1 N_dc_p _net22  1E-3
R_dc_sn1 N_dc_0 _net23  1E-3
C_dc_p2 _net20 _net19  10E-3 
C_dc_p1 _net22 N_dc_0  10E-3 
C_dc_n1 _net23 N_dc_n  10E-3 
C_dc_n2 _net21 _net16  10E-3 
L_dc_n _net16 N_dc_n  1E-6 
L_dc_p _net17 N_dc_p  1E-6 
R_dc_src_s _net17 _net18  1
S_0_a N_conv_a  N_dc_0  _net24  _net25 
S_0_b N_conv_b  N_dc_0  _net26  _net27 
S_0_c N_conv_c  N_dc_0  _net28  _net29 
D_p_a N_conv_a  N_dc_p 
D_n_a N_dc_n  N_conv_a 
D_p_b N_conv_b  N_dc_p 
D_n_b N_dc_n  N_conv_b 
S_p_a N_conv_a  N_dc_p  _net30  _net31 
S_p_b N_conv_b  N_dc_p  _net32  _net33 
S_p_c N_conv_c  N_dc_p  _net34  _net35 
S_n_a N_dc_n  N_conv_a  _net36  _net37 
S_n_b N_dc_n  N_conv_b  _net38  _net39 
S_n_c N_dc_n  N_conv_c  _net40  _net41 
.control
set filetype=ascii
op
print all > spice4qucs.cir.dc_op
destroy all
quit
.endc
.end
